US04977175
In an argon flow, 8.1 g (202 mmols) of sodium hydride (60% in oil) was added to 400 ml of dry dimethylformamide and the mixture was cooled to 5° to 10° C. To the mixture was dropwise added 34.7 g (192 mmols) of N-(4-methyl -2nitrophenyl)formamide (a solution in 150 ml of dry dimethylformamide). The mixture was stirred at 50° C. for an hour. After cooling again to 5° to 10° C., 18 ml (289 mmols) of methyl iodide (a solution in 30 ml of dry dimethylformamide) was dropwise added to the mixture. The system was stirred at room temperature for 16 hours. After the solvent was distilled off under reduced pressure, 200 ml of water was added to the residue followed by extraction with ethyl acetate. After the ethyl acetate layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting crystals were washed with n-hexane to give 31.2 g (83.4%) of N-methyl-N-(4-methyl2-nitrophenyl)formamide.

reactant | sodium hydride | 202 mmols, 8.1 g | [H-].[Na+]
reactant | N-(4-methyl -2nitrophenyl)formamide | 192 mmols, 34.7 g | CC1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C8H8N2O3
reactant | methyl iodide | 289 mmols, 18 ml | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(4-methyl2-nitrophenyl)formamide | 31.2 g, 83.4% | CN(C=O)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C9H10N2O3
